US04618599
The 1-(2-mercaptopropyl)-4-methylpiperazine is prepared by heating a mixture of propylene sulphide (19 cc) and N-methylpiperazine (29 cc) at 100° C. for 16 hours. This gives a colourless oil (32 g) distilling at 105° C. under 1.3 kPa.

reactant | propylene sulphide | 19 cc | C1C(C)S1 | C3H6S
reactant | N-methylpiperazine | 29 cc | CN1CCNCC1 | C5H12N2
product | 1-(2-mercaptopropyl)-4-methylpiperazine | SC(CN1CCN(CC1)C)C | C8H18N2S
